US09315491B2
6-Hydroxy-5-methoxy-1H-pyrimidine-2,4-dione
The NaOCH3 (8.5 g, 157 mmole), was added to a stirred solution of dimethyl 2-methoxymalonate (10.2 g, 62.91 mmole), urea (2.5 g, 41.7 mmole), and EtOH (80 ml). The reaction mixture was heated to 100° C. for 4 hrs, then the reaction was evaporated to remove the solvent. Water was added to the mixture and then concentrated HCl was added. The pH of the mixture was adjusted to ca. 3˜4. The mixture was filtered and wash water and acetone. After drying in vacuo, it gave a product (99%).

reactant | NaOCH3 | 157 mmole, 8.5 g | O([Na])C
reactant | dimethyl 2-methoxymalonate | 62.91 mmole, 10.2 g | COC(C(=O)OC)C(=O)OC | C6H10O5
reactant | urea | 41.7 mmole, 2.5 g | NC(=O)N | CH4N2O
solvent | EtOH | 80 ml | CCO | C2H6O
product | 6-Hydroxy-5-methoxy-1H-pyrimidine-2,4-dione | 99% | OC1=C(C(NC(N1)=O)=O)OC | C5H6N2O4
